US04439433
A mixture of 2.54 g of 7-amino-cephalosporanic acid, 25 ml of anhydrous methylene chloride and 2.6 ml of triethylamine was stirred at room temperature for 15 minutes and then 6.02 g of 1-hydroxy-1H-benzotriazole 2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetate were added thereto. The mixture was stirred at room temperature for 45 hours and 25 ml of water and 5 ml of N hydrochloric acid were added thereto. The decanted organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was taken up in 30 ml of ethyl acetate and 2.4 ml of diethylamino were added to the solution. The mixture was cooled at 0° C. and was vacuum filtered to obtain 5.9 g of the syn isomer of diethylamine 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate.

reactant | 7-amino-cephalosporanic acid | 2.54 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | 1-hydroxy-1H-benzotriazole 2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetate | 6.02 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCCN=[N+]=[N-].ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
product | diethylamine 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-azidoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOCCN=[N+]=[N-])C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O.C(C)NCC | InChI=1S/C36H32N8O7S2.C4H11N/c1-22(45)50-19-23-20-52-33-29(32(47)44(33)30(23)34(48)49)40-31(46)28(42-51-18-17-38-43-37)27-21-53-35(39-27)41-36(24-11-5-2-6-12-24,25-13-7-3-8-14-25)26-15-9-4-10-16-26;1-3-5-4-2/h2-16,21,29,33H,17-20H2,1H3,(H,39,41)(H,40,46)(H,48,49);5H,3-4H2,1-2H3/t29?,33-;/m1./s1
